US07989438B2
Step 3: (16S,18R)-29-cyclohexyl-10,17-dimethyl-20-oxa-9-thia-1,8,10,13,17-pentaazahexacyclo[16.9.1.12,6.13,27.113,16.021,26]hentriaconta-2(31),3,5,21,23,25,27(29)-heptaen-7-one 9,9-dioxide
A 0.05M solution of tert-butyl (3S)-3-[{(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}amino)carbonyl]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl}(methyl)amino]pyrrolidine-1-carboxylate in DCM/TFA 3:1 was stirred at RT for 1.5 h. The residue obtained by evaporation was dissolved in MeOH, NEt3 (5 eq) was added, followed by NaCNBH3 (3 eq) and AcOH (10 eq) and the mixture was stirred for 4 h at RT.

reactant | tert-butyl (3S)-3-[{(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}amino)carbonyl]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl}(methyl)amino]pyrrolidine-1-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC=C3)N([C@@H]3CN(CC3)C(=O)OC(C)(C)C)C)C(=O)NS(=O)(=O)N(C)CC(OC)OC | C39H55N5O8S
reactant | NEt3 | 5 eq | CCN(CC)CC | C6H15N
reactant | NaCNBH3 | 3 eq | [BH3-]C#N.[Na+]
reactant | AcOH | 10 eq | CC(=O)O | C2H4O2
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | MeOH | CO | CH4O
product | (16S,18R)-29-cyclohexyl-10,17-dimethyl-20-oxa-9-thia-1,8,10,13,17-pentaazahexacyclo[16.9.1.12,6.13,27.113,16.021,26]hentriaconta-2(31),3,5,21,23,25,27(29)-heptaen-7-one 9,9-dioxide | C1(CCCCC1)C1=C2C3=CC=CC=C3OC[C@@H]3N([C@H]4CCN(CCN(S(NC(C5=CC=C1C(N2C3)=C5)=O)(=O)=O)C)C4)C | C32H41N5O4S
